US07750040B2
To a solution of rac-(1S,5R)-6,6-dimethyl-2-propionyl-bicyclo[3.1.0]hexan-3-one (14.37 g, 80 mmol) in chloroform (145 mL) and CCl4 (53 mL), triphenylphosphine (41.8 g, 160 mmol) is added. The resulting solution is stirred at 60° C. for 75 min before a second portion of triphenylphosphine (4.2 g, 16 mmol) is added. Stirring is continued at 60° C. for 30 min. The solvent is evaporated and the residue is suspended in pentane. The pentane solution is decanted from the brown oily residue. The residue is once more treated with pentane. The combined pentane fractions are carefully evaporated to leave crude (1R,5S)-2-[1-chloro-propylidene]-6,6-dimethyl-bicyclo[3.1.0]hexan-3-one (11.0 g) as a yellow oil.

reactant | rac-(1S,5R)-6,6-dimethyl-2-propionyl-bicyclo[3.1.0]hexan-3-one | 80 mmol, 14.37 g | CC1(C2CC(C(C12)C(CC)=O)=O)C | C11H16O2
reactant | triphenylphosphine | 160 mmol, 41.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | triphenylphosphine | 16 mmol, 4.2 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | chloroform | 145 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CCl4 | 53 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | (1R,5S)-2-[1-chloro-propylidene]-6,6-dimethyl-bicyclo[3.1.0]hexan-3-one | 11.0 g | ClC(CC)=C1[C@H]2C([C@H]2CC1=O)(C)C | C11H15ClO
